US04091016
Preparation of N-Methyl-N(4-Chlorophenylthiosulfenyl)Carbamoyl Fluoride (Method I)
Prepared by the procedure of Example II by reacting 4-chlorophenylthiosulfenyl chloride with methylcarbamoyl fluoride. b.p. 110°-113° C/0.3 Torr ND24 1.5959.

reactant | 4-chlorophenylthiosulfenyl chloride | ClC1=CC=C(C=C1)SSCl | C6H4Cl2S2
reactant | methylcarbamoyl fluoride | CNC(=O)F | C2H4FNO
product | N-Methyl-N(4-Chlorophenylthiosulfenyl)Carbamoyl Fluoride | CN(C(=O)F)SSC1=CC=C(C=C1)Cl | C8H7ClFNOS2
